US09337358B2
Tetradecyl-2-formylthiophene-3-carboxylate
To a 100 mL Schlenk flask were added 0.5 mL of diisopropyl amine and 20 mL of dry THF. The flask was cooled to −78° C. 3.5 mmol of n-butyl lithium in hexane was then added to the above solution. The mixture was stirred at −78° C. for 30 minutes. After stirring, 1.0 g of tetradecylthiophene-3-carboxylate in 10 mL THF was added dropwise to the solution. After stirring at −78° C. for another 2 hours, 0.7 mL of DMF was syringed into the reaction mixture. The reaction mixture was stirred for 5 h at −78° C. and 1 mL of acetic acid was added to the flask. The mixture was poured into a separation funnel and diethyl ether was added to the mixture. The organic layer was washed 3 times with 100 mL of water, dried with MgSO4, and the solvents were removed by rotary evaporation. The resulting residue was purified by column chromatography using a mixture of hexane and dichloromethane to give the desired compound. The NMR data were obtained and were consistent with those of the desired compound.

reactant | diisopropyl amine | 0.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 3.5 mmol | C(CCC)[Li]
reactant | tetradecylthiophene-3-carboxylate | 1.0 g | C(CCCCCCCCCCCCC)OC(=O)C1=CSC=C1 | C19H32O2S
reactant | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | Tetradecyl-2-formylthiophene-3-carboxylate | C(CCCCCCCCCCCCC)OC(=O)C1=C(SC=C1)C=O | C20H32O3S
